US03966781
Using the procedure described in Example 1 and substituting therein 20 g. of ethyl oleate for the palmitic acid and employing 5 g. of catalyst and adjusting the deuterium flow rate to 150 ml./minute, there is obtained after 17 days of exchange a 50% yield of ethyl stearate of 99 atom % D.

reactant | ethyl oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC | C20H38O2
reactant | palmitic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
product | ethyl stearate | 50% yield | C(CCCCCCCCCCCCCCCCC)(=O)OCC | C20H40O2
